US04340765
A mixture of 12.65 g of crude (E)-4-bromo-1,1-diethoxy-2-methyl-2-butene, 6.4 ml of m-methoxyphenol, and 8.1 anhydrous potassium carbonate in 100 ml sieve dried dimethylformamide is stirred at room temperature under nitrogen for about 43 hours and the reaction mixture diluted to 500 ml with water and extracted with a 300 ml and two 100 ml portions of hexane. The combined hexane extracts are washed with two portions of brine and dried with sodium sulfate. Concentration of the hexane extracts yields 6.45 g (E)-1,1-diethoxy-(4-m-methoxyphenoxy)-2-methyl-2-butene.

reactant | (E)-4-bromo-1,1-diethoxy-2-methyl-2-butene | 12.65 g | BrC/C=C(/C(OCC)OCC)\C | C9H17BrO2
reactant | m-methoxyphenol | 6.4 ml | COC=1C=C(C=CC1)O | C7H8O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (E)-1,1-diethoxy-(4-m-methoxyphenoxy)-2-methyl-2-butene | 6.45 g | C(C)OC(\C(=C\COC1=CC(=CC=C1)OC)\C)OCC | C16H24O4
